US08563575B2
3-Methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (320 mg) was added to a solution of 3-(4-hydroxyphenyl)-1-propyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (400 mg) and NaH (65.3 mg) in DMF (5 ml) at 100° C. The mixture was heated at 180° C. for 30 min under microwave irradiation. The reaction mixture was diluted with MeOH and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-50% EtOAc in hexane) to give 3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1-propyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (300 mg) as white crystals.

reactant | 3-Methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 320 mg | CN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C8H9N3O2S
reactant | 3-(4-hydroxyphenyl)-1-propyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 400 mg | OC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2)CCC)=O | C15H15N3O2
reactant | NaH | 65.3 mg | [H-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1-propyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 300 mg | CN1C(=NC=2C1=NC=CC2)OC2=CC=C(C=C2)N2C(N(C=1C2=NC=CC1)CCC)=O | C22H20N6O2
